US04578381
36.26 Grams of methyl 3-(4-chloroacetylphenyl)propionate was dissolved in 300 ml of concentrated sulfuric acid, then 20.9 g of fuming nitric acid (d=1.52) was added dropwise thereto under an ice-cooled condition with stirring. The reaction mixture was further stirred at a room temperature for 3 hours, then was poured into ice-water, and extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue thus obtained was purified by a silica gel column chromatography, then crystallized by adding ether. The crystals formed were collected by filtration, recrystallized from methanol to obtain 26.7 g of methyl 3-(4-carboxy-2-nitrophenyl)propionate in the form of light yellowish prism-like crystals.

reactant | methyl 3-(4-chloroacetylphenyl)propionate | ClCC(=O)C1=CC=C(C=C1)CCC(=O)OC | C12H13ClO3
reactant | nitric acid | 20.9 g | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 3-(4-carboxy-2-nitrophenyl)propionate | 26.7 g | C(=O)(O)C1=CC(=C(C=C1)CCC(=O)OC)[N+](=O)[O-] | C11H11NO6
